US08242124B2
Preparation of 1-(4-methoxy-7-(3-(trifluoromethyl)-1H-1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethane-1,2-dione, Compound 12
A mixture of 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethane-1,2-dione (100 mg, 0.204 mmol), 3-(trifluoromethyl)-1H-1,2,4-triazole (55.8 mg, 0.407 mmol), (1R,2S)—N1,N2-dimethylcyclohexane-1,2-diamine (5.79 mg, 0.041 mmol), copper (I) iodide (19.38 mg, 0.102 mmol) and potassium carbonate (84 mg, 0.611 mmol) in dioxane (1 mL) was heated at 100° C. for 4 hours. LCMS indicated that the desired product was generated. The reaction mixture was filtered and the clear solution was purified by prep. HPLC to give 1-(4-methoxy-7-(3-(trifluoromethyl)-1H-1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethane-1,2-dione as white solid (35 mg, 30%). LCMS: m/e 548.18 (M+H)+, 2.50 min (method 10). 1H NMR (500 MHz, MeOD) δ ppm 2.85-3.08 (m, 2H) 3.74-4.04 (m, 5H) 4.81-5.09 (m, 2H) 7.37-7.71 (m, 3H) 7.88-7.96 (m, 1H) 7.97-8.18 (m, 2H) 8.33-8.43 (m, 1H) 8.52-8.70 (m, 1H) 8.82-8.96 (m, 1H) 9.51 (s, 1H).

reactant | 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethane-1,2-dione | 0.204 mmol, 100 mg | BrC=1N=CC(=C2C1NC=C2C(C(=O)N2CC1=CC=CC(=C1CC2)C2=NC=CC=C2)=O)OC | C24H19BrN4O3
reactant | 3-(trifluoromethyl)-1H-1,2,4-triazole | 0.407 mmol, 55.8 mg | FC(C1=NNC=N1)(F)F | C3H2F3N3
reactant | (1R,2S)—N1,N2-dimethylcyclohexane-1,2-diamine | 0.041 mmol, 5.79 mg | CN[C@H]1[C@H](CCCC1)NC | C8H18N2
reactant | potassium carbonate | 0.611 mmol, 84 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.102 mmol, 19.38 mg | [Cu]I
product | 1-(4-methoxy-7-(3-(trifluoromethyl)-1H-1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethane-1,2-dione | COC1=C2C(=C(N=C1)N1N=C(N=C1)C(F)(F)F)NC=C2C(C(=O)N2CC1=CC=CC(=C1CC2)C2=NC=CC=C2)=O | C27H20F3N7O3
